US08629137B2
(6-iodo-pyrimidin-4-yl)-(8-methyl-2,3-dihydro-benzo[1,4]dioxin-6-yl)-methanone
0.131 g (3.00 mmol) sodium hydride (55%, suspension in mineral oil) were added to 0.677 g (2.00 mmol) 4,6-diiodopyrimidine, 0.535 g (3.00 mmol) 8-methyl-2,3-dihydro-benzo[1,4]dioxin-6-carbaldehyde (US2005/256099) and 0.133 g (1.00 mmol) 1,3-dimethylimidazolium chloride in 10 mL THF and the mixture was refluxed for 4 h. Then the reaction mixture was mixed with ice water and extracted with EtOAc. The organic phase was dried on sodium sulphate, evaporated down i. vac. and the residue was purified by preparative HPLC-MS. The fractions containing the product were combined and the organic solvent was evaporated down i. vac. The residue was made alkaline with 1N aqueous sodium hydroxide solution and the grease precipitated was extracted with EtOAc. The organic phase was dried on sodium sulphate, filtered, evaporated down and dried i. vac.

reactant | sodium hydride | 3.00 mmol, 0.131 g | [H-].[Na+]
reactant | 4,6-diiodopyrimidine | 2.00 mmol, 0.677 g | IC1=NC=NC(=C1)I | C4H2I2N2
reactant | 8-methyl-2,3-dihydro-benzo[1,4]dioxin-6-carbaldehyde | 3.00 mmol, 0.535 g | CC1=CC(=CC2=C1OCCO2)C=O | C10H10O3
reactant | 1,3-dimethylimidazolium chloride | 1.00 mmol, 0.133 g | [Cl-].C[N+]1=CN(C=C1)C
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (6-iodo-pyrimidin-4-yl)-(8-methyl-2,3-dihydro-benzo[1,4]dioxin-6-yl)-methanone | IC1=CC(=NC=N1)C(=O)C1=CC2=C(OCCO2)C(=C1)C | C14H11IN2O3
